US04027028
N-phenoxyethyl-4-(N'-phenyl-N'-propionylamino)-piperidine
By condensing 14.7 g 4-(N'-phenyl-N'-propionylamino)-piperidine and 19.9 g phenoxyethyl chloride, they are obtained after 24 hours reflux 22 g of the title product which after recrystallization from hot cyclohexane gives a first crop weighing 13.5 g. The pure compound melts at 100°-102°. It is soluble in hydrochloric acid. The solution after distillation leads to the recovery of the hydrochloride. The hydrochloride is soluble in water.

reactant | 4-(N'-phenyl-N'-propionylamino)-piperidine | 14.7 g | C1(=CC=CC=C1)N(C(CC)=O)C1CCNCC1 | C14H20N2O
reactant | phenoxyethyl chloride | 19.9 g | O(C1=CC=CC=C1)CCCl | C8H9ClO
product | N-phenoxyethyl-4-(N'-phenyl-N'-propionylamino)-piperidine | 22 g | O(C1=CC=CC=C1)CCN1CCC(CC1)N(C(CC)=O)C1=CC=CC=C1 | C22H28N2O2
